US07846959B2
A solution of 3-(4-amino-3-nitrophenyl)-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (10 g, 26.6 mmol) in a mixture of terahydrofuran-ethyl acetate (1:1, 20 mL) was hydrogenated over 10% Pd—C (100 mg) at 40 psi for 18 h. The catalyst was removed by filtration and the filtrate concentrated in vacuo. The residue was purified by column chromatography (SiO2, hexanes/ethyl acetate) to afford 3-(3,4-diaminophenyl)-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (9.0 g, 98%) as a brown powder. MS (EI) for C21H19N3O2: 368 (MNa+).

reactant | 3-(4-amino-3-nitrophenyl)-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 26.6 mmol, 10 g | NC1=C(C=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)O)[N+](=O)[O-] | C21H17N3O4
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 3-(3,4-diaminophenyl)-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 9.0 g, 98% | NC=1C=C(C=CC1N)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)O | C21H19N3O2
